US07635715B2
Step D: Preparation of Diethyl 2-(2-(2-fluorophenyl)-2-methylpropanoyl)malonate
To a solution of 2-(2-fluorophenyl)-2-methylpropanoic acid (3.98 g, 22 mmol), IPAc (31 mL) and DMF (0.017 mL), was slowly added oxalyl chloride (2.0 mL, 23 mmol) over 10 minutes. The resulting solution was stirred for 16 hours and then concentrated in vacuo to afford an oil. In a separate flask, IPAc (30.0 mL) and diethyl malonate (4.2 mL, 27 mmol) were combined. To this mixture was added anhydrous MgCl2 (2.6 g, 27 mmol). The resulting white slurry was stirred at room temperature for 30 minutes, and then TEA (10 mL, 73 mmol) was added. After stirring for an additional 2.5 hours, the reaction was chilled in an ice water bath for 10 minutes, and then the crude acid chloride (previously prepared above) was added to the white mixture via syringe over 10 minutes. The ice bath was removed, and the reaction was stirred for 1.5 hours at room temperature. The mixture was acidified with 5N HCl and added IPAc (50 mL) was added. The aqueous layer was separated and set aside. The organic layer was sequentially washed with saturated NaHCO3 solution and then water. The separated organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to give the crude product. MS (m/z)=325 (M+H)+.

reactant | 2-(2-fluorophenyl)-2-methylpropanoic acid | 22 mmol, 3.98 g | FC1=C(C=CC=C1)C(C(=O)O)(C)C | C10H11FO2
reactant | oxalyl chloride | 23 mmol, 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl malonate | 27 mmol, 4.2 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 27 mmol, 2.6 g | [Mg+2].[Cl-].[Cl-]
solvent | DMF | 0.017 mL | CN(C)C=O | C3H7NO
product | Diethyl 2-(2-(2-fluorophenyl)-2-methylpropanoyl)malonate | FC1=C(C=CC=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21FO5
